US07893099B2
(1S,3S) and (1R,3R)-3-[2-chloro-4-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-benzenesulfonyl]-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was synthesized in analogy to Example 80, from Rac-(1S,3S)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide and 2-oxa-6-aza-spiro[3.3]heptane as oxalic acid salt (CAS [1045709-32-7]; Angew. Chem. Int. Ed. 2008, 47, 4512-4515) to afford the desired product as a light yellow oil. MS (EI): 450.2 (M+H)+.

reactant | Rac-(1S,3S)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl | C16H16ClFN2O3S
reactant | 2-oxa-6-aza-spiro[3.3]heptane | C1OCC12CNC2 | C5H9NO
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
product | (1R,3R)-3-[2-chloro-4-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-benzenesulfonyl]-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1C[C@@H](CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CC2(COC2)C1)Cl | C21H24ClN3O4S
